US07989657B2
N,N-di-tert-Butyloxycarbonyl-2-bromo-5-chloro-4-fluoro-aniline
This compound was prepared in analogy to the method of Darnbrough et al. (Synth. Comm. 2001, 31, 3273): Under an atmosphere of Nitrogen, di-tert-butyl dicarbonate [24424-99-5], 8.839 g) was added to a cooled (0° C.) solution of 2-bromo-5-chloro-4-fluoro-aniline ([85462-59-5], 3.03 g) and DMAP (0.165 g) in THF (20 ml). After 4 h at r.t., the reaction mixture was taken up in ethyl acetate, washed with 1N HCl and brine, and dried (Na2SO4). The solvent was evaporated and the residue purified by column chromatography (silica gel, n-heptane, ethyl acetate) to give the title compound (4.66 g, 81%). 1H NMR (CDCl3): δ 1.42 (s, 18H), 7.28 (d, 1H), 7.42 (d, 1H).

reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-bromo-5-chloro-4-fluoro-aniline | 3.03 g | BrC1=C(N)C=C(C(=C1)F)Cl | C6H4BrClFN
catalyst | DMAP | 0.165 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-di-tert-Butyloxycarbonyl-2-bromo-5-chloro-4-fluoro-aniline | 4.66 g, 81% | C(C)(C)(C)OC(=O)N(C1=C(C=C(C(=C1)Cl)F)Br)C(=O)OC(C)(C)C | C16H20BrClFNO4
